US04587049
A mixture of 37.5 g (0.107 mole) of 1-(2,4-dimethoxy-benzyl)-4-(mesyloxymethyl)-2-azetidinone prepared according to the preceding paragraph, 250 ml of anhydrous acetone, and 56.3 g (0.376 mole) of sodium iodide is heated to boiling for 8 hours. To the mixture a further amount of 18.8 g (0.125 mole) of sodium iodide are added and the mixture is stirred for a further 8 hours under boiling. The mixture is evaporated to dryness on a water-bath (internal temperature 50° C.), the residue is rubbed with 100 ml of water and the oil thus obtained is extracted with 100 ml of dichloromethane. The aqueous layer is extracted three times with 50 ml of dichloromethane each. The united dichloromethane layers are dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated. Thus 40.3 g of 1-(2,4-dimethoxy-benzyl)-4-(iodomethyl)-2-azetidinone are obtained. Yield: 98%.

reactant | 1-(2,4-dimethoxy-benzyl)-4-(mesyloxymethyl)-2-azetidinone | 0.107 mole, 37.5 g | COC1=C(CN2C(CC2COS(=O)(=O)C)=O)C=CC(=C1)OC | C14H19NO6S
reactant | sodium iodide | 0.376 mole, 56.3 g | [I-].[Na+]
reactant | sodium iodide | 0.125 mole, 18.8 g | [I-].[Na+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 1-(2,4-dimethoxy-benzyl)-4-(iodomethyl)-2-azetidinone | 40.3 g, Yield: 98% | COC1=C(CN2C(CC2CI)=O)C=CC(=C1)OC | C13H16INO3
